US07655803B2
In a 100 ml Schlenk flask, 32.16 g (0.255 moles) of dimethyl sulfate was slowly added dropwise to 20.94 g (0.255 moles) of methylimidazole with ice cooling and under a blanket gas. Stirring of the mixture was continued at room temperature over night. After the addition of 30.82 g (0.510 moles; 2 equ.) of 2-methoxyethanol, the mixture was heated at reflux at 130° C. for 48 hours. The volatile fractions were removed under high vacuum at 80° C. The product, 1,3-dimethyl-imidazolium 2-methoxyethyl sulfate, was obtained as a low-viscous, slightly yellow liquid in quantitative yield.

reactant | dimethyl sulfate | 0.255 moles, 32.16 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | methylimidazole | 0.255 moles, 20.94 g | CC=1NC=CN1 | C4H6N2
reactant | 2-methoxyethanol | 0.510 moles, 30.82 g | COCCO | C3H8O2
product | 1,3-dimethyl-imidazolium 2-methoxyethyl sulfate | quantitative yield | COCCOS(=O)(=O)[O-].C[N+]1=CN(C=C1)C | InChI=1S/C5H9N2.C3H8O5S/c1-6-3-4-7(2)5-6;1-7-2-3-8-9(4,5)6/h3-5H,1-2H3;2-3H2,1H3,(H,4,5,6)/q+1;/p-1
